US06344468B1
3-Hydroxy-2-(2-(3-methoxyphenyl)ethyl)-3-(3-pyridyl)-2,3-dihydroisoindol-1-one
At −70° C., a 1.6 M butyllithium solution (3.99 mmol) in absolute diethyl ether was admixed dropwise with a solution of 0.56 g (3.56 mmol) of 3-bromopyridine in absolute diethyl ether. The color of the mixture changed to yellow, and a precipitate was formed. After 1 h at −70° C., a solution of 0.5 g (1.78 mmol) of N-(2-(3-methoxyphenyl)ethyl)phthalimide in 10 ml of absolute tetrahydrofuran was added dropwise. The reaction mixture was warmed to room temperature, stirred for another 1 h and then admixed with 10 ml of saturated ammonium chloride solution. The mixture was extracted three times with diethyl ether. The combined organic phases were washed once with saturated sodium chloride solution, dried and evaporated to dryness using a rotary evaporator. The colorless oily crude product was purified by chromatography. Elution was carried out using a dichloromethane/methanol gradient (0 to 3% methanol). The resulting colorless oil solidified on standing at room temperature. Yield: 0.34 g. M.p.: 97° C.

reactant | butyllithium | 3.99 mmol, 1.6 M | C(CCC)[Li]
reactant | 3-bromopyridine | 3.56 mmol, 0.56 g | BrC=1C=NC=CC1 | C5H4BrN
reactant | N-(2-(3-methoxyphenyl)ethyl)phthalimide | 1.78 mmol, 0.5 g | COC=1C=C(C=CC1)CCN1C(C=2C(C1=O)=CC=CC2)=O | C17H15NO3
reactant | ammonium chloride | 10 ml | [Cl-].[NH4+]
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 3-Hydroxy-2-(2-(3-methoxyphenyl)ethyl)-3-(3-pyridyl)-2,3-dihydroisoindol-1-one | OC1(N(C(C2=CC=CC=C12)=O)CCC1=CC(=CC=C1)OC)C=1C=NC=CC1 | C22H20N2O3
